US07538123B2
(1) 7-[2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl]-6-methoxy-1-methyl-1,2,3,4-tetrahydroquinoline
196 mg of 7-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl)-6-methoxy-1,2,3,4tetrahydroquinoline was dissolved in 5 ml of acetonitrile. Thereafter, 1 ml of 37% formalin, 190 mg of sodium cyanoborohydride, and 0.15 ml acetic acid were added to the reaction solution, and the obtained mixture was then stirred at room temperature for 1 hour. Thereafter, the reaction solution was diluted with ethyl acetate, and then washed with a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate), so as to obtain 100 mg of the subject compound.

reactant | 7-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl)-6-methoxy-1,2,3,4tetrahydroquinoline | 196 mg | O1CCOC12CCN(CC2)CCC2=C(C=C1CCCNC1=C2)OC | C19H28N2O3
reactant | formalin | 1 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 190 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.15 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl]-6-methoxy-1-methyl-1,2,3,4-tetrahydroquinoline | 100 mg | O1CCOC12CCN(CC2)CCC2=C(C=C1CCCN(C1=C2)C)OC | C20H30N2O3
